US06849732B2
To a solution of methyl 2(R/S)-[4-(4-fluorophenoxy)benzenesulfonyl][(ethoxycarbonyl)methyl]amino-3,3-dimethyl-butanedioic acid (2.00 g, 3.91 mmol) and triethylamine (0.6 mL, 4.30 mmol) in 50 mL of benzene at 80° C. was added diphenylphosphoryl azide (0.93 mL, 4.3 mmol). After 4 hours, benzyl alcohol (1.62 mL, 15.6 mmol) was added. After an additional 20 hours, the reaction was cooled to room temperature and partitioned between ethyl acetate and 10% aq. citric acid. The organic layer was washed with sat. aq. sodium bicarbonate, dried over sodium sulfate, and concentrated. The excess benzyl alcohol was removed by kugelrohr distillation at 0.28 torr, 70° C., and the residue was purified by chromatography on silica, eluting with 30% ethyl acetate in hexane, to give methyl 2(R/S)-[4-(4-fluorophenoxy)benzenesulfonyl][(ethoxycarbonyl)methyl]amino-3-(benzyloxycarbonyl)amino-3-methylbutanoate (1.81 g, 75%) as a colorless, viscous oil.

reactant | methyl 2(R/S)-[4-(4-fluorophenoxy)benzenesulfonyl][(ethoxycarbonyl)methyl]amino-3,3-dimethyl-butanedioic acid | 3.91 mmol, 2.00 g | COC(C(C(C(=O)O)(C)C)(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)NCC(=O)OCC)=O | C23H26FNO9S
reactant | triethylamine | 4.30 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 4.3 mmol, 0.93 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 15.6 mmol, 1.62 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | methyl 2(R/S)-[4-(4-fluorophenoxy)benzenesulfonyl][(ethoxycarbonyl)methyl]amino-3-(benzyloxycarbonyl)amino-3-methylbutanoate | 1.81 g, 75% | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)C(C(=O)OC)(C(C)(C)NC(=O)OCC2=CC=CC=C2)NCC(=O)OCC)C=C1 | C30H33FN2O9S
